US07135492B2
5-Chloro-2-methylphenyl isothiocyanate (18.3 g; 0.1 mol) was added dropwise to the mixture of 2-propynylamine hydrochloride (9.2 g, 0.1 mol) and triethyl amine (20 mL) in methylene chloride (200 mL). The mixture was stirred for 18 hours at ambient temperature. The mixture was evaporated to dryness. The residue was stirred in water (200 mL) for 1 hour then filtered. The solid was dissolved in ethyl acetate (300 mL) and washed with 1N hydrochloric acid (2×200 mL) then with water (300 mL). The organic phase was dried over anhydrous magnesium sulfate and evaporated to dryness to give 16.8 g of N-(5-chloro-2-methylphenyl)-N′-(2-propynyl)thiourea.

reactant | 5-Chloro-2-methylphenyl isothiocyanate | 0.1 mol, 18.3 g | ClC=1C=CC(=C(C1)N=C=S)C | C8H6ClNS
reactant | 2-propynylamine hydrochloride | 0.1 mol, 9.2 g | Cl.C(C#C)N
reactant | triethyl amine | 20 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | N-(5-chloro-2-methylphenyl)-N′-(2-propynyl)thiourea | 16.8 g | ClC=1C=CC(=C(C1)NC(=S)NCC#C)C | C11H11ClN2S
